2145-09-25 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-9-24**] 02:00 PM
 MIDLINE - START [**2145-9-24**] 04:00 PM
 TUNNELED (HICKMAN) LINE - STOP [**2145-9-24**] 04:05 PM
   L thigh
 ARTERIAL LINE - START [**2145-9-24**] 05:30 PM
 BLOOD CULTURED - At [**2145-9-24**] 09:32 PM
 BLOOD CULTURED - At [**2145-9-25**] 04:31 AM
 STOOL CULTURE - At [**2145-9-25**] 06:30 AM
   1.placed a-line
   2. bolused 4L LR (5300cc+)
   3.started levophed, weaned down overnight
   4.IR removed right femoral CVL, placed right arm midline
   5.empiric coverage of c. diff with flagyl and PO vanc
   6. dc'd zosyn, added meropenem
   7.lactate trending down
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2145-9-24**] 10:20 PM
   Metronidazole - [**2145-9-25**] 12:00 AM
   Meropenem - [**2145-9-25**] 06:00 AM
   Vancomycin - [**2145-9-25**] 06:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-9-25**] 12:00 AM
   Hydromorphone (Dilaudid) - [**2145-9-25**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-25**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 65 (63 - 102) bpm
   BP: 95/60(67) {70/36(44) - 95/60(67)} mmHg
   RR: 12 (10 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,171 mL
                                                                  1,843 mL
   PO:
             TF:
   IVF:
                                                                  8,171 mL
                                                                  1,843 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                  1,428 mL
   Urine:
                                                                  1,405 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,531 mL
                                                                    415 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Gen: awake, alert
   Cardio: RRR, no m/g/r
   Pulm: CTA b/l
   GI abd tenderdiffusely, not distended
   Ext: no edema
   Labs / Radiology
   251 K/uL
   9.3 g/dL
   91 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.3 mEq/L
   8 mg/dL
   111 mEq/L
   140 mEq/L
   29.5 %
   29.3 K/uL
        [image002.jpg]
                            [**2145-9-24**]  06:45 AM
                            [**2145-9-24**]  08:47 AM
                            [**2145-9-24**]  01:20 PM
                            [**2145-9-24**]  09:33 PM
                             [**2145-9-25**]  03:39 AM
   WBC
   57.0
   31.4
   44.8
   33.2
   29.3
   Hct
   29.2
   29.0
   27.4
   27.1
   29.5
   Plt
   332
   287
   269
   234
   251
   Cr
   1.4
   1.2
   1.2
   1.0
   Glucose
   86
   70
   167
   91
   Other labs: PT / PTT / INR:14.9/36.9/1.3, ALT / AST:22/19, Alk Phos / T
   Bili:301/0.3, Amylase / Lipase:74/22, Differential-Neuts:93.0 %,
   Lymph:4.2 %, Mono:1.9 %, Eos:0.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.5
   g/dL, LDH:155 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   46 y.o female with [**Location (un) 2455**] syndrome s/p small and large bowel
   resection on chronic TPN and hx of multiple line infections s/p femoral
   line removal, on meropenem, linezolid, IV flagyl, PO vancomycin
   #Hypotension: Likely from septic shock.  History of klebsiella
   Bacteremia with indwelling femoral line.  Treated through line once,
   presenting later with worsening hypotension.  Femoral line was removed
   on [**9-24**], with plan of re-siting line in a couple of days once blood
   cultures remain negative.  Baseline SBP in 80-90
s, persistenly in 70
   yesterday despite being 5Lpositive. Levophed added [**9-24**] with goal MAP
   > 60.
   -meropenem for klebsiella Bacteremia
   -linezolid for VRE UTI
   -LR boluses
   -re-site permanent line in [**12-27**] days. If unable to replace, will require
   trans-hepatic venous access.
   .#Leukocytosis: wbc 57 with over 90% neutrophils, decreased to 29.3
   overnight.  Surgery consulted given patient has tender abdomen, concern
   for C.Diff.  treated empirically with flagyl and Po vanc. C.Diff
   negative X1,  abdominal exam not too concerning, re-examined lumbar CT
   for abdominal pathology and CT did not reveal source of leukocytosis.
   Probably secondary to discitis/osteomyelitis, UTI, Bacteremia.
   -DC flagyl and PO Vanc
   -continue meropenem and linezolid
   -re check stool for C.Diff
   -discontinue celexa in setting of linezolid administration
   -abdominal CT if clinical picture worsens
   #ARF: baseline Cr 0.6, ncreased to 1.4 yesterday, decreased to 1.0
   today after 5L of LR. U lytes prerenal.
   -continue with hydration, bolus as necessary
   ICU Care
   Nutrition: holding TPN, no access. PO diet
    Glycemic Control: Insulin in TPN
   Lines:
   Tunneled (Hickman) Line
 midline [**2145-9-24**] 06:47 AM
   20 Gauge - [**2145-9-24**] 06:49 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care

2145-09-25 09:10:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Fever and HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 y.o. F w/ [**Location (un) 2455**] syndrom, s/p multiple bowel resections w/ short
   gut syndrome on chronic TPN, multiple recurrent line infections and
   vascular occlusions.  Transferred for fever and HOTN, abdominal pain
   24 Hour Events:
 BLOOD CULTURED - At [**2145-9-24**] 02:00 PM
 BLOOD CULTURED - At [**2145-9-24**] 09:32 PM
 BLOOD CULTURED - At [**2145-9-25**] 04:31 AM
 STOOL CULTURE - At [**2145-9-25**] 06:30 AM
   LINES D/C'D - temporary line placed
 MIDLINE - START [**2145-9-24**] 04:00 PM
 TUNNELED (HICKMAN) LINE - STOP [**2145-9-24**] 04:05 PM
   L thigh
 ARTERIAL LINE - START [**2145-9-24**] 05:30 PM
   - Surgical evaluation for abdominal pain - non-surgical
   - progression of discitis seen on lumbar spine imaging
   History obtained from [**Hospital 85**] Medical records, HO
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2145-9-24**] 10:20 PM
   Metronidazole - [**2145-9-25**] 12:00 AM
   Meropenem - [**2145-9-25**] 06:00 AM
   Vancomycin - [**2145-9-25**] 06:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-9-25**] 12:00 AM
   Hydromorphone (Dilaudid) - [**2145-9-25**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Gastrointestinal: Abdominal pain, better
   Flowsheet Data as of  [**2145-9-25**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 65 (63 - 102) bpm
   BP: 104/57(74) {79/45(56) - 117/62(82)} mmHg
   RR: 13 (10 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,171 mL
                                                                  2,187 mL
   PO:
             TF:
   IVF:
                                                                  8,171 mL
                                                                  2,187 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                  1,428 mL
   Urine:
                                                                  1,405 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,531 mL
                                                                    759 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, ostomy in place, tender B/L LQ,
   no rebound
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, pale
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): AAO x 3, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   251 K/uL
   91 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.3 mEq/L
   8 mg/dL
   111 mEq/L
   140 mEq/L
   29.5 %
   29.3 K/uL
        [image002.jpg]
                            [**2145-9-24**]  06:45 AM
                            [**2145-9-24**]  08:47 AM
                            [**2145-9-24**]  01:20 PM
                            [**2145-9-24**]  09:33 PM
                             [**2145-9-25**]  03:39 AM
   WBC
   57.0
   31.4
   44.8
   33.2
   29.3
   Hct
   29.2
   29.0
   27.4
   27.1
   29.5
   Plt
   332
   287
   269
   234
   251
   Cr
   1.4
   1.2
   1.2
   1.0
   Glucose
   86
   70
   167
   91
   Other labs: PT / PTT / INR:14.9/36.9/1.3, ALT / AST:22/19, Alk Phos / T
   Bili:301/0.3, Amylase / Lipase:74/22, Differential-Neuts:93.0 %,
   Lymph:4.2 %, Mono:1.9 %, Eos:0.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.5
   g/dL, LDH:155 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Microbiology: C.diff - negative x1, 2 pending
   BCx
 pending [**9-23**] & [**9-24**]
   Assessment and Plan
   46 yo with hx Gardners syndrome. Admited to OSH [**9-16**] with lower abd
   pain and lower back pain grew out klebsiella and coag neg staph in
   blood and VRE in urine. Hypotensive overnight with increased ostomy
   output in past few days with SBP in the 60's mmHg.
 SEPSIS - Klebsiella bacteremia, possible sources include line
   infection, discitis.  Overnight BP and lactate improved, WBC trending
   down
   - femoral line d/c'd yesterday, temporary midline place at IR
   - f/u repeat BCx, send surveillance BCx
   - continue linezolid for VRE UTI & meropenem for bacteremia
   - d/c PO vanco/flagyl, send repeat C.diff today
   - continue IVF today, wean levophed as able to keep MAP >55-60, PRN
   boluses for SBP<85
   - hold Celexa given linezolid
   #Abdominal pain - stable to mildly improved, LFTs stable and w/u thus
   far unrevealing.  Surgical evaluation appreciated.
   - serial exams today
   - defer abdominal CT for now, but low threshold if worsening exam
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - cont fentanyl patch
 ARF improved with IVF, likely pre-renal
   - f/u lytes/Cr today, continue IVF as above
   # FEN -
   - PO trial of clears today
   - holding TPN while lines out
   ICU Care
   Nutrition:
   Comments: PO diet, holding TPN for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-9-24**] 06:49 AM
   Midline - [**2145-9-24**] 04:00 PM
   Arterial Line - [**2145-9-24**] 05:30 PM
   Comments: R Midline
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2145-09-26 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - cdiff neg x 1, flagyl and PO vanc discontinued per ID recs
   - 2nd cdiff sample sent
   - d/c'd celexa given concern for SSRI syndrome on Linezolid
   - diet advanced
   - blood cx from [**9-24**] growing GNR; surveillance cx sent
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-25**] 06:00 AM
   Metronidazole - [**2145-9-25**] 08:00 AM
   Linezolid - [**2145-9-25**] 08:10 PM
   Meropenem - [**2145-9-26**] 06:05 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-9-25**] 09:00 AM
   Hydromorphone (Dilaudid) - [**2145-9-26**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-26**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 74 (63 - 79) bpm
   BP: 94/55(70) {80/48(60) - 112/78(245)} mmHg
   RR: 12 (11 - 19) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,643 mL
                                                                  1,890 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  7,403 mL
                                                                  1,890 mL
   Blood products:
   Total out:
                                                                  3,628 mL
                                                                  1,150 mL
   Urine:
                                                                  2,050 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,015 mL
                                                                    740 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin, pale
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Bowel sounds present, Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   9.0 g/dL
   72 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.2 mEq/L
   7 mg/dL
   112 mEq/L
   140 mEq/L
   27.1 %
   12.9 K/uL
        [image002.jpg]
                            [**2145-9-24**]  06:45 AM
                            [**2145-9-24**]  08:47 AM
                            [**2145-9-24**]  01:20 PM
                            [**2145-9-24**]  09:33 PM
                             [**2145-9-25**]  03:39 AM
                             [**2145-9-26**]  04:47 AM
   WBC
   57.0
   31.4
   44.8
   33.2
   29.3
   12.9
   Hct
   29.2
   29.0
   27.4
   27.1
   29.5
   27.1
   Plt
   332
   287
   269
   [**Telephone/Fax (3) 6299**]
   Cr
   1.4
   1.2
   1.2
   1.0
   1.0
   Glucose
   86
   70
   167
   91
   72
   Other labs: PT / PTT / INR:14.9/36.9/1.3, ALT / AST:22/19, Alk Phos / T
   Bili:301/0.3, Amylase / Lipase:74/22, Differential-Neuts:93.0 %,
   Lymph:4.2 %, Mono:1.9 %, Eos:0.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.5
   g/dL, LDH:155 IU/L, Ca++:7.6 mg/dL, Mg++:1.4 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR - pending
   Microbiology: [**9-24**] blood cx: GNR 2/2 bottles from left groin catheter
   Assessment and Plan
   46 y.o female with [**Location (un) 2455**] syndrome s/p small and large bowel
   resection on chronic TPN and hx of multiple line infections s/p femoral
   line removal, on meropenem, linezolid, IV flagyl, PO vancomycin
   #Hypotension: Likely from septic shock.  History of klebsiella
   Bacteremia with indwelling femoral line.  Treated through line once,
   presenting later with worsening hypotension.  Femoral line was removed
   on [**9-24**], with plan to resite line in a couple of days once blood
   cultures remain negative.  Baseline SBP in 80-90
   -meropenem for klebsiella bacteremia, day #3, follow-up organism
   identification and sensitivities
   -linezolid for VRE UTI, day #6 of 7
   -LR boluses as needed to maintain MAP>60
   -re-site permanent line in [**12-27**] days. If unable to replace, will require
   trans-hepatic venous access.
   -surveillance blood cx
   #Leukocytosis: wbc 57 with over 90% neutrophils, decreased to 29.3
   overnight.  Surgery consulted given patient has tender abdomen, concern
   for C.Diff.  Initially treated empirically with flagyl and Po vanc,
   then d/c
d after C.Diff negative X1.  Surgery consulted and reported
   abdominal exam too concerning.  Re-examined lumbar CT for abdominal
   pathology and CT did not reveal source of leukocytosis.  Possibly
   secondary to discitis/osteomyelitis, UTI, bacteremia.  Now improving on
   antibiotic therapy.
   -continue meropenem and linezolid
   - f/u cdiff toxin #2
   # Depression:
   -discontinue celexa in setting of linezolid administration
   #ARF: baseline Cr 0.6, now at 1.0 in the setting of recent
   hypotension.  Good UOP.  Suspect prerenal etiology vs. element of ATN.
   -continue with hydration, bolus as necessary
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-9-24**] 06:49 AM
   Midline - [**2145-9-24**] 04:00 PM
   Arterial Line - [**2145-9-24**] 05:30 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:  PPI not indicated.
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full code
   Disposition:  ICU

2145-09-26 08:56:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: HOTN, abdominal pain
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   46 yo F w/ [**Location (un) 2455**] syndrome, multiple bowel resections with resultant
   short gut syndrome on chronic TPN since [**2123**], s/p multiple vascular
   occlusions with 27 stents, admitted with ESBL Klebsiella bacteremia and
   VRE UTI, septic shock.
   24 Hour Events:
   Flagyl and PO vanco stopped after C.diff negative
   Diet advanced
   BCx from [**9-24**] - GNRs 2/4 bottles
   New O2 requirement today
 4L O2 to maintain sat ~90%
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-25**] 06:00 AM
   Metronidazole - [**2145-9-25**] 08:00 AM
   Meropenem - [**2145-9-26**] 06:05 AM
   Linezolid - [**2145-9-26**] 07:57 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2145-9-26**] 07:58 AM
   Pantoprazole (Protonix) - [**2145-9-26**] 08:02 AM
   Heparin Sodium (Prophylaxis) - [**2145-9-26**] 08:02 AM
   Other medications:
   Lidoderm, fent patch,
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Pain: [**1-26**] Mild
   Pain location: abdomen, unchanged
   Flowsheet Data as of  [**2145-9-26**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 73 (69 - 79) bpm
   BP: 92/52(67) {80/48(60) - 102/78(245)} mmHg
   RR: 15 (11 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,643 mL
                                                                  2,363 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  7,403 mL
                                                                  2,363 mL
   Blood products:
   Total out:
                                                                  3,628 mL
                                                                  1,150 mL
   Urine:
                                                                  2,050 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,015 mL
                                                                  1,213 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, chronically ill
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: B/L bases)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   230 K/uL
   72 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.2 mEq/L
   7 mg/dL
   112 mEq/L
   140 mEq/L
   27.1 %
   12.9 K/uL
        [image002.jpg]
                            [**2145-9-24**]  06:45 AM
                            [**2145-9-24**]  08:47 AM
                            [**2145-9-24**]  01:20 PM
                            [**2145-9-24**]  09:33 PM
                             [**2145-9-25**]  03:39 AM
                             [**2145-9-26**]  04:47 AM
   WBC
   57.0
   31.4
   44.8
   33.2
   29.3
   12.9
   Hct
   29.2
   29.0
   27.4
   27.1
   29.5
   27.1
   Plt
   332
   287
   269
   [**Telephone/Fax (3) 6299**]
   Cr
   1.4
   1.2
   1.2
   1.0
   1.0
   Glucose
   86
   70
   167
   91
   72
   Other labs: PT / PTT / INR:14.9/36.9/1.3, ALT / AST:22/19, Alk Phos / T
   Bili:301/0.3, Amylase / Lipase:74/22, Differential-Neuts:93.0 %,
   Lymph:4.2 %, Mono:1.9 %, Eos:0.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.5
   g/dL, LDH:155 IU/L, Ca++:7.6 mg/dL, Mg++:1.4 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR - very suboptimal film, rotated
   New R effusion, ? LLL atelectasis/collapse
   Microbiology: BCx ([**9-24**]) - [**12-28**] GNR
   BCx ([**9-25**]) - pending
   C.diff (-) x3
   Assessment and Plan
   46 yo F w/ [**Location (un) 2455**] syndrome, multiple bowel resections with resultant
   short gut syndrome on chronic TPN since [**2123**], s/p multiple vascular
   occlusions with 27 stents, admitted with ESBL Klebsiella bacteremia and
   VRE UTI, septic shock.
 SEPSIS - likely line sepsis, line removed [**9-24**], WBC trending down,
   Afebrile, chronic but worsening discitis
   - continues on meropenem (Day 3)
   - continues on linezolid for UTI (today day 6 of 7)
   - f/u surveillance cultures, f/u speciation/sensitivities of [**9-24**] BCx
   GNRs
   - needs f/u w/ ortho for discitis once acute issues are resolved
   - ID following
 HYPOTENSION (NOT SHOCK) - baseline BP reported in 80's systolic
   - will stop IVF given total body overload, f/u UOP
   - tolerate MAP 55 as long as UOP and mental status maintained
 EDEMA, PERIPHERAL
   - will hold off on IVF (as above)
   - TBB goal even today
 HYPOXEMIA - in setting of aggressive IVF resuscitation, now on 4L w/
   new B/L pleural effusions, and LLL collapse, no SOB
   - as above, d/c IVF, consider lasix in PM if BP remains adequate
   - chest PT, OOB to chair, incentive spirometry for LLL collapse
   ICU Care
   Nutrition:
   PO intake, ultimately will need to resume TPN when acute infectious
   issues resolved
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2145-9-24**] 06:49 AM
   Midline - [**2145-9-24**] 04:00 PM
   Arterial Line - [**2145-9-24**] 05:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2145-09-27 07:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-9-26**] 02:48 PM
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-25**] 06:00 AM
   Metronidazole - [**2145-9-25**] 08:00 AM
   Linezolid - [**2145-9-26**] 08:40 PM
   Meropenem - [**2145-9-27**] 05:41 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-9-26**] 08:02 AM
   Heparin Sodium (Prophylaxis) - [**2145-9-27**] 12:04 AM
   Hydromorphone (Dilaudid) - [**2145-9-27**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-27**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 69 (69 - 79) bpm
   BP: 101/71(81) {83/52(66) - 102/99(101)} mmHg
   RR: 10 (8 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,450 mL
                                                                    353 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,210 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  3,360 mL
                                                                    750 mL
   Urine:
                                                                  1,870 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                   -397 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender:
   diffusely
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   269 K/uL
   87 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.8 mEq/L
   7 mg/dL
   111 mEq/L
   137 mEq/L
   28.5 %
   8.2 K/uL
        [image002.jpg]
                            [**2145-9-24**]  06:45 AM
                            [**2145-9-24**]  08:47 AM
                            [**2145-9-24**]  01:20 PM
                            [**2145-9-24**]  09:33 PM
                             [**2145-9-25**]  03:39 AM
                             [**2145-9-26**]  04:47 AM
                             [**2145-9-26**]  02:23 PM
                             [**2145-9-27**]  04:12 AM
   WBC
   57.0
   31.4
   44.8
   33.2
   29.3
   12.9
   8.2
   Hct
   29.2
   29.0
   27.4
   27.1
   29.5
   27.1
   28.5
   Plt
   332
   287
   269
   [**Telephone/Fax (3) 6299**]
   269
   Cr
   1.4
   1.2
   1.2
   1.0
   1.0
   0.9
   0.9
   Glucose
   86
   70
   167
   91
   72
   90
   87
   Other labs: PT / PTT / INR:13.6/35.9/1.2, ALT / AST:22/19, Alk Phos / T
   Bili:301/0.3, Amylase / Lipase:74/22, Differential-Neuts:93.0 %,
   Lymph:4.2 %, Mono:1.9 %, Eos:0.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.5
   g/dL, LDH:155 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   46 yo F w/ [**Location (un) 2455**] syndrome, multiple bowel resections with resultant
   short gut syndrome on chronic TPN since [**2123**], s/p multiple vascular
   occlusions with 27 stents, admitted with ESBL Klebsiella bacteremia and
   VRE UTI, septic shock.
 SEPSIS - likely line sepsis, line removed [**9-24**] with + blood clx (GNR
   spp pending pip-[**First Name9 (NamePattern2) **] [**Last Name (un) **]), WBC trending down, Afebrile, chronic but
   worsening discitis (concerning for source of repeated infection: osteo)
   - continues on meropenem (Day 3), will change back to Pip-[**Last Name (un) **] for 14
   day course.
   - continues on linezolid for UTI, last day today.
   - f/u surveillance cultures, f/u speciation/sensitivities of [**9-24**] BCx
   GNRs
   - needs f/u w/ ortho for discitis once acute issues are resolved: may
   need bx of L4-5
   - ID following appreciate input.
 HYPOTENSION (NOT SHOCK) - baseline BP reported in 80's systolic
   - will stop IVF given total body overload, f/u UOP
   - tolerate MAP 55 as long as UOP and mental status maintained
 EDEMA, PERIPHERAL
   - will hold off on IVF (as above)
   - TBB goal 1L out.
 HYPOXEMIA - in setting of aggressive IVF resuscitation, now on 4L w/
   new B/L pleural effusions, and LLL collapse, no SOB
   - as above, d/c IVF, consider lasix in PM if BP remains adequate
   - check PA and lateral CXR to eval RLL effusion.
   - chest PT, OOB to chair, incentive spirometry for LLL collapse
   - goal net neg 500 cc.
    Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: PO (will need new TPN at some point)
   Glycemic Control:
   Lines:
   Midline - [**2145-9-24**] 04:00 PM
   Arterial Line - [**2145-9-24**] 05:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2145-09-27 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - GNR zosyn sensitive, can change back to zosyn vs more narrow abx
   - surv cx from [**9-26**] ngtd [**9-25**] ngtd
   - WBC trending back down to 8 from 12
   - cxr still with some rll atalectasis
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2145-9-25**] 06:00 AM
   Metronidazole - [**2145-9-25**] 08:00 AM
   Linezolid - [**2145-9-26**] 08:40 PM
   Meropenem - [**2145-9-27**] 05:41 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-9-26**] 08:02 AM
   Heparin Sodium (Prophylaxis) - [**2145-9-27**] 12:04 AM
   Hydromorphone (Dilaudid) - [**2145-9-27**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-27**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 69 (69 - 79) bpm
   BP: 101/71(81) {83/52(66) - 102/99(101)} mmHg
   RR: 10 (8 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,450 mL
                                                                    353 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,210 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  3,360 mL
                                                                    750 mL
   Urine:
                                                                  1,870 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                   -397 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%, 3L
   ABG: ///22/
   Physical Examination
   NAD, A/Ox3, cn 2-12 grossly intact, elevated RIJ to level of ear, mild
   crackle at R base, bronchovesicular breath sounds on R, decreased
   breath sounds on L, no LE edema, abd soft non-tender.  R mid line in
   place, no erythema, R a line, no erythema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   269 K/uL
   9.2 g/dL
   87 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.8 mEq/L
   7 mg/dL
   111 mEq/L
   137 mEq/L
   28.5 %
   8.2 K/uL
        [image002.jpg]
                            [**2145-9-24**]  06:45 AM
                            [**2145-9-24**]  08:47 AM
                            [**2145-9-24**]  01:20 PM
                            [**2145-9-24**]  09:33 PM
                             [**2145-9-25**]  03:39 AM
                             [**2145-9-26**]  04:47 AM
                             [**2145-9-26**]  02:23 PM
                             [**2145-9-27**]  04:12 AM
   WBC
   57.0
   31.4
   44.8
   33.2
   29.3
   12.9
   8.2
   Hct
   29.2
   29.0
   27.4
   27.1
   29.5
   27.1
   28.5
   Plt
   332
   287
   269
   [**Telephone/Fax (3) 6299**]
   269
   Cr
   1.4
   1.2
   1.2
   1.0
   1.0
   0.9
   0.9
   Glucose
   86
   70
   167
   91
   72
   90
   87
   Other labs: PT / PTT / INR:13.6/35.9/1.2, ALT / AST:22/19, Alk Phos / T
   Bili:301/0.3, Amylase / Lipase:74/22, Differential-Neuts:93.0 %,
   Lymph:4.2 %, Mono:1.9 %, Eos:0.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.5
   g/dL, LDH:155 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   [**9-24**]
 klebsiella pneumonia, pan sensitive, save bactrim
   Cdiff (-) x2
   Assessment and Plan
   46 [**First Name9 (NamePattern2) 3050**] [**Location (un) 2455**] syndrome s/p small and large bowel resection on
   chronic TPN and hx of multiple line infections s/p femoral line
   removal, now being treated for OSH UTI and GNR Bacteremia.
   #  leukocytosis/fever - +bacteremia at OSH (k. pna, coag(-) staph) and
   now growing K. pna from [**9-24**] from blood here.  Also had +uti-VRE at
   OSH, started on linezolid (D#7 [**2145-9-27**]).  CT performed on admit showed
   concern for osteomyelitis, discitis.  ID has been following.
   -          stop meropenem, initiate zosyn
 pan sensitive micrbobe, but
   given discitis with presumed but unknown microbe, will opt for broader
   coverage
   -          continue linezolid indefinitely, initial plan for 7 days,
   pending ID recs
   -          ultimately, likely will need IR-guided biopsy of discitis
   given CT findings and now recurrent bacteremia, but pending further
   stabilization of hemodynamics (borderline low BPs)
   -
   # hypotension
 initially, likely from septic shock, now with
   appropriate microbial coverage.  Pt with baseline low BPs
   -        will diureses, as below [**9-27**], with monitor of BP
   # hypoxia
 CXR showing R-sided fluid overload vs effusion, JVP
   elevated, large IVF administration over past 3 days, overall likely
   fluid overloaded.
   -          diurese 1
 1.5L (-), wean O2, monitor BP
   # access
 R-midline, will need more permanent placement, perhaps
   trans-hepatic venous access.
   PPI, HEP sq, OOB
   C/O pending stable hemodynamics post-diuresis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2145-9-24**] 04:00 PM
   Arterial Line - [**2145-9-24**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: